US08497271B2
Part C. {(R)-2-Hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-carbamic acid t-butyl ester
[(R)-2-Hydroxy-1-(4-hydroxy-phenyl)-ethyl]-carbamic acid t-butyl ester (10 mmol), (S)-2-methylbutyl bromide (2.60 g, 17 mmol) and Cs2CO3 (7.47 g, 23 mmol) were combined in DMF (50 ml). The reaction mixture was heated at 70° C. overnight. Saturated NH4Cl was added to quench the reaction. The aqueous layer was extracted with ethyl acetate (3×20 ml). The combined organic layers were washed with brine, then dried over MgSO4, filtered and concentrated to give a white crude solid. The crude product was purified via column chromatography on silica gel (0%-50% ethyl acetate in hexanes) to afford the title compound (2.09 g, 65% yield of 3 steps) as a white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.22 (d, J=8.6 Hz, 2H), 6.90 (m, 2H), 5.13 (d, J=6.6 Hz, 1H), 4.73 (br. s., 1H), 3.83 (m, 3H), 3.74 (m, 1 H), 2.39 (br. s., 1H), 1.87 (m, 1H), 1.58 (m, 1H), 1.42 (m, 9H), 1.29 (m, 1H), 1.01 (m, 3H), 0.96 (m, 3H); LCMS (ESI) m/e 324.2 [(M+H), calcd for C18H30NO4 324.4].

reactant | [(R)-2-Hydroxy-1-(4-hydroxy-phenyl)-ethyl]-carbamic acid t-butyl ester | 10 mmol | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=C(C=C1)O)=O | C13H19NO4
reactant | (S)-2-methylbutyl bromide | 17 mmol, 2.60 g | C[C@H](CBr)CC | C5H11Br
reactant | Cs2CO3 | 23 mmol, 7.47 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | {(R)-2-Hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-carbamic acid t-butyl ester | 2.09 g, 65% yield | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=C(C=C1)OC[C@H](CC)C)=O | C18H29NO4
